US05721234
Preparation of acetic acid 8-acetylamino-5-bromo-7-nitro-1,2,3,4-tetrahydronaphthalen-2-yl ester
A solution of acetic acid 8-acetylamino-5-bromo-1,2,3,4-tetrahydronaphthalen-2-yl ester (2.6 g, 8 mmol) in 40 mL of trifluoroacetic acid was cooled in an ice bath. Fuming nitric acid (2 mL) was added dropwise and the mixture was stirred for 2.5 h. The solvent was removed by rotoevaporation, and water was added to the residue which induced solidification. The solid was collected by filtration, washed with ether and dried to give the product (2.4 g) in 81% yield.

reactant | acetic acid 8-acetylamino-5-bromo-1,2,3,4-tetrahydronaphthalen-2-yl ester | 8 mmol, 2.6 g | C(C)(=O)NC=1C=CC(=C2CCC(CC12)OC(C)=O)Br | C14H16BrNO3
reactant | nitric acid | 2 mL | [N+](=O)(O)[O-] | HNO3
solvent | trifluoroacetic acid | 40 mL | FC(C(=O)O)(F)F | C2HF3O2
product | acetic acid 8-acetylamino-5-bromo-7-nitro-1,2,3,4-tetrahydronaphthalen-2-yl ester | 2.4 g, 81% yield | C(C)(=O)NC=1C(=CC(=C2CCC(CC12)OC(C)=O)Br)[N+](=O)[O-] | C14H15BrN2O5
